// Point Netlist Generated on: Nov 21 05:54:26 2025
// Generated for: spectre
// Design Netlist Generated on: Nov 21 05:54:26 2025
// Design library name: LAB3
// Design cell name: Shunt
// Design view name: schematic
simulator lang=spectre
global 0
parameters temperature=27 cdb2=36.3f cds2=0 cgb2=36.3f cgd2=25.6f \
    cgs2=28.61f gm2=0.2291m rds2=200823 IS=1 IT=0 cdb1=160f cds1=46.01f \
    cgb1=160.37f cgd1=26.40f cgs1=112.78f gm1=0.227m rds1=23893065.17
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/config.scs" section=default
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/param.scs" section=3s
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/bip.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/cap.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/dio.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/mos.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/photo.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/res.scs" section=tm

// Library name: DAY2
// Cell name: MOS_AC
// View name: schematic
subckt MOS_AC D G S
parameters _par0 rds cgb cgs cgd cdb cds
    G0 (D S G S) vccs gm=_par0
    R0 (D S) resistor r=rds
    C6 (G S) capacitor c=cgb
    C5 (G S) capacitor c=cgs
    C4 (G D) capacitor c=cgd
    C3 (D S) capacitor c=cdb
    C0 (D S) capacitor c=cds
ends MOS_AC
// End of subcircuit definition.

// Library name: LAB3
// Cell name: Shunt
// View name: schematic
R2 (0 VG) resistor r=100k
R0 (VG VOUT) resistor r=1M
C2 (VG VOUT) capacitor c=0
C1 (VG 0) capacitor c=2p
C0 (VOUT 0) capacitor c=100f
I5 (0 VG) isource mag=IS type=sine
I4 (net3 0) isource mag=IT type=sine
I10 (VOUT net3 0) MOS_AC _par0=gm2 rds=rds2 cgb=cgb2 cgs=cgs2 cgd=cgd2 \
        cdb=cdb2 cds=cds2
I8 (net3 0 net2) MOS_AC _par0=gm1 rds=rds1 cgb=cgb1 cgs=cgs1 cgd=cgd1 \
        cdb=cdb1 cds=cds1
I0 (0 VG net2) MOS_AC _par0=gm1 rds=rds1 cgb=cgb1 cgs=cgs1 cgd=cgd1 \
        cdb=cdb1 cds=cds1
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=0.01 stop=10G dec=20 annotate=status 
pz ( VOUT ) pz iprobe=I5 freq=1 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
